US07745641B2
In a similar manner to Step 3 of Example 16, 4-methoxymethoxy-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (2.00 g, 5.60 mmol) was dissolved in THF (60 mL), and the solution was treated with TMEDA (2.70 mL, 17.9 mmol), sec-butyl lithium-hexane solution (0.95 mol/L, 18.9 mL, 18.0 mmol) and iodine (2.13 g, 8.39 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 80/20 to 70/30) to obtain 4-methoxymethoxy-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenyl ethyl)isoindolinone (2.08 g, yield 77%).

reactant | 4-methoxymethoxy-5-methoxy-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 5.60 mmol, 2.00 g | COCOC1=C2C(N(C(C2=CC=C1OC)=O)C(C)(C1=CC=CC=C1)C)O | C20H23NO5
reactant | TMEDA | 17.9 mmol, 2.70 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 8.39 mmol, 2.13 g | II | I2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenyl ethyl)isoindolinone | 2.08 g, yield 77% | COCOC1=C2C(N(C(C2=C(C=C1OC)I)=O)C(C)(C1=CC=CC=C1)C)O | C20H22INO5
